US07795262B2
Step 4. Preparation of 5-[(4-cyclobutylpiperazin-1-yl)-2-oxoethyl]-2-(6-methylpyridazin-3-yl)-4,5,6,7-tetrahydro-2H-pyrazolo[4,3-c]pyridine
A mixture of 2-(6-methylpyridazin-3-yl)-2,4,6,7-tetrahydro-5H-pyrazolo[4,3-c]pyridine hydrochloride (920 mg, 3.65 mmol), 1-(chloroacetyl)-4-cyclobutylpiperazine (791 mg, 3.65 mmol), K2CO3 (2.52 g, 18.3 mmol) and KI (66 mg, 0.4 mmol) in CH3CN (20 ml) is stirred at rt overnight. The solvent is removed in vacuo and the residue is partitioned between water (20 mL) and EtOAc (20 mL). The layers are separated and the aqueous layer is extracted with EtOAc (3×20 mL). The combined extracts are washed with brine (30 mL), dried and evaporated. The resulting oil is purified by flash column with DCM/MeOH/NH4OH (100:5:0.5) to give the title compound as a light yellow solid. 1H NMR (δ, CDCl3): 8.43 (s, 1H), 8.01 (d, 1H), 7.41 (d. 1H), 3.64-3.67 (m, 6H), 3.40 (s, 2H), 2.88 (s, 4H), 2.66-2.72 (m, 4H), 2.29 (q, 4H), 1.59-2.05 (m, 6H). MS (M+1): 396.2.

reactant | 2-(6-methylpyridazin-3-yl)-2,4,6,7-tetrahydro-5H-pyrazolo[4,3-c]pyridine hydrochloride | 3.65 mmol, 920 mg | Cl.CC1=CC=C(N=N1)N1N=C2C(CNCC2)=C1
reactant | 1-(chloroacetyl)-4-cyclobutylpiperazine | 3.65 mmol, 791 mg | ClCC(=O)N1CCN(CC1)C1CCC1 | C10H17ClN2O
reactant | K2CO3 | 18.3 mmol, 2.52 g | C(=O)([O-])[O-].[K+].[K+]
solvent | CH3CN | 20 ml | CC#N | C2H3N
product | 5-[(4-cyclobutylpiperazin-1-yl)-2-oxoethyl]-2-(6-methylpyridazin-3-yl)-4,5,6,7-tetrahydro-2H-pyrazolo[4,3-c]pyridine | C1(CCC1)N1CCN(CC1)C(CN1CC=2C(CC1)=NN(C2)C=2N=NC(=CC2)C)=O | C21H29N7O
